US07105531B2
4-(3-Bromophenylamino)benzo[4,5]thieno[3,2-b]pyridine-3-carbonitrile
A solution of 150 mg (0.61 mmol) of 4-chlorobenzo[4,5]thieno[3,2-b]pyridine-3-carbonitrile in 3 mL of 2-ethoxyethanol containing 80 mg (0.74 mmol) of 3-bromoaniline and 71 mg of pyridine hydrochloride is heated at reflux temperature for 4 hours, then allowed to stir at room temperature for 3 days. The reaction mixture is partitioned between ethyl acetate and saturated sodium bicarbonate and the organic layer is dried over magnesium sulfate, filtered and concentrated in vacuo. Diethyl ether is added to the residue and the resultant solid is collected by filtration to give 139 mg (58%) of a white solid, mp 240–242° C.

reactant | 4-chlorobenzo[4,5]thieno[3,2-b]pyridine-3-carbonitrile | 0.61 mmol, 150 mg | ClC1=C2C(=NC=C1C#N)C1=C(S2)C=CC=C1 | C12H5ClN2S
reactant | 2-ethoxyethanol | 0.74 mmol, 3 mL, 80 mg | C(C)OCCO | C4H10O2
reactant | 3-bromoaniline | BrC=1C=C(N)C=CC1 | C6H6BrN
reactant | pyridine hydrochloride | 71 mg | Cl.N1=CC=CC=C1
product | 4-(3-Bromophenylamino)benzo[4,5]thieno[3,2-b]pyridine-3-carbonitrile | 139 mg, 58% | BrC=1C=C(C=CC1)NC1=C2C(=NC=C1C#N)C1=C(S2)C=CC=C1 | C18H10BrN3S
